Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R Hip Pain, Groin Pain  

 
Major Surgical or Invasive Procedure:
___ CT guided biopsy of pubic ramus by ___

 
History of Present Illness:
___ h/o prostate cancer and recent antibiotic prolonged 
antibiotic course for pubic ramus osteomyelitis presenting with 
progressive right groin pain. Pt has h/o prostatectomy c/b 
erectile dysfunction for which he underwent penile prosthesis 
implant and subsequent removal due to pseudomonal infection 
pubic ramus osteomyelitis. Pt completed an 8 week course of 
vanc/cefepime/metronidazole, finishing ___. Since completion 
of antibiotics, pt has noted progressive right groin pain which 
worsened acutely over the last few days. He also notes left 
groin pain for the last week. Pain is exacerbated by ambulation 
and movement of the hip joint. He has been unable to walk due to 
pain since shoveling snow yesterday afternoon. He denies any 
recent trauma, fevers, chills or nightsweats. No dysuria, 
urinary frequency or skin redness or drainage. Patient initially 
presented to ___ but was transferred to ___ for continuity of 
care.  
Vitals in the ED: 98.1 66 121/65 16 96% RA  
Exam was notable for tenderness in groin but normal scrotal skin 
exam, +external hemorrhoids on rectal exam wiht guaiac negative 
stool. Labs notable for: HGB 8.5, MCV 111, normal UA, CHEM 7, 
CBC  
Patient given: morphine sulfate 2mg IV x2, 1g acetaminophen, 
oxycodone 5mg x1. Vitals prior to transfer: 98.1 72 129/68 17 
99% RA.  
On the floor, pt reports ___ right groin discomfort while 
laying still in bed.  
Review of Systems:  
(+) per HPI  
(-) shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 
Past Medical History:
-Insertion Penile prosthesis, ___  
-Removal and replacment of infected penile prosthesis ___  

-Explant of replacement prosthesis ___  
-JAK2 positive Essential Thrombocythemia, followed by Dr ___  
-___ at ___ has taken hydrea for ~ ___ years, briefly 
discontinued in the fall due to anemia and resumed ___ on 
1500mg daily  
-Exercise-induced asthma  
-Radiation therapy for acne in his youth resulting in  
hypothyroidism.  
-Hydrocele repair by Dr. ___ in early ___.  
-Cholecystectomy.  
-Inguinal hernia repair.  
 
Social History:
___
Family History:
His father had prostate cancer and lived well into his ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - T:99 119/63 HR 69 RR 16 99% RA  
GENERAL: WDWB male sitting up in bed, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, +pain with external 
rotation, abduction and flexion of R hip  
GU: no penile or scrotal erythema, no groin or hip erythma, 
effusion or tenderness to palpation  
PULSES: 2+ DP pulses bilaterally  
NEURO: awake and alert  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
Vitals - T 97.9 BP 115/59 HR 60 RR 18 97% RA  
GENERAL: sitting up in bed comfortably, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, +pain with external 
rotation, abduction and flexion of R hip  
GU: no penile or scrotal erythema, no groin or hip erythma, 
effusion or tenderness to palpation  
PULSES: 2+ DP pulses bilaterally  
NEURO: awake and alert  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION PHYSICAL EXAM:
___ 10:30PM BLOOD WBC-4.1# RBC-2.16*# Hgb-8.5*# Hct-24.0*# 
MCV-111*# MCH-39.3*# MCHC-35.5* RDW-20.3* Plt ___
___ 10:30PM BLOOD Neuts-68.2 ___ Monos-7.9 Eos-0.6 
Baso-0.3
___ 10:30PM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-1+ 
Macrocy-2+ Microcy-1+ Polychr-OCCASIONAL Ovalocy-1+ 
Schisto-OCCASIONAL Tear Dr-1+
___ 12:26AM BLOOD ___ PTT-27.8 ___
___ 10:30PM BLOOD Glucose-119* UreaN-19 Creat-0.7 Na-138 
K-4.1 Cl-103 HCO3-25 AnGap-14
___ 10:30PM BLOOD LD(LDH)-211 TotBili-1.0
___ 07:10AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.0

PERTINENT RESULTS:
___ 06:10AM BLOOD Iron-35*
___ 06:10AM BLOOD calTIBC-196* VitB12-478 Folate-19.4 
Ferritn-439* TRF-151*
___ 07:10AM BLOOD CRP-81.7*
___ 10:30PM BLOOD Hapto-132
___ 05:19AM BLOOD Vanco-11.8
___ 10:38PM BLOOD Lactate-1.1
___ 07:10AM BLOOD SED RATE-Test   96  H       

DISCHARGE LABS:
___ 05:18AM BLOOD WBC-4.9 RBC-2.09* Hgb-8.0* Hct-23.5* 
MCV-113* MCH-38.4* MCHC-34.2 RDW-19.6* Plt ___
___ 06:15AM BLOOD Glucose-92 UreaN-14 Creat-0.7 Na-139 
K-5.1 Cl-103 HCO3-28 AnGap-13
___ 06:55AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.2

MICRO:
___ 10:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ BLOOD CULTURE: NEGATIVE

___ 9:00 am TISSUE      PUBIC BONE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      Reported to and read back by  ___ ___ 
___ 2:20AM. 
      PSEUDOMONAS AERUGINOSA. 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 


   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 9:00 am JOINT FLUID      PUBIC SYMPHYSIS JOINT FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ ___ 
___ 2:20PM. 
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S

___ 9:00 am BONE MARROW      BONE MARROW. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___:    NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

IMAGING:  
___ MRI Prostate:  
There is persistent edema and enhancement throughout the 
inferomedial right pubic ramus and surrounding adductor 
musculature, which is slightly improved from ___. The 
absence of cortical destruction limits the conclusion of 
osteomyelitis, however, this cannot be excluded. No abscess.  

___ CT Abd & Pelvis With Contrast: 
1. No retroperitoneal hematoma. 
2. Increased sclerosis of the inferior right pubic ramus 
reflects the underlying chronic inflammatory process. No 
definite evidence for acute osteomyelitis. For additional 
details, please see the recent prostate MRI. 
3. Unchanged, mild splenomegaly. 
 
 
Brief Hospital Course:
___ with h/o prostate cancer, penile prosthesis c/b infection 
and pubic ramus osteomyelitis s/p prolonged antibiotic course 
presenting with progressive right hip pain since discontinuation 
of antibiotics.  

# Osteomyelitis / groin soft tissue infection: Pt with worsening 
pain and rising inflammatory markers (CRP 11.6 to 81 in last 10 
days) since discontinuing vanc/cefepime/metronidazole, 
suggesting antibiotic failure. No abscess on imaging. Ortho 
initially consulted but would defer open biopsy but do not see 
any need for debridement based on scans and defered to ___. S/P 
CT guided ___ biopsy of pubic ramus bone and surrounding tissue 
on ___. Culture growing pseudomonas sensitive to cefepime. Per 
ID recs will start vancomycin, cefepime, flagyl for at least 6 
weeks and they will decide final course as outpatient. Will 
likely narrow treatment once culture final. An appointment was 
made for the pt to see urologist to monitor site of surgical 
prosthesis removal and assess for any nidus of recurrent 
infection.
 
# Anemia: Hct drop 29.3-> 24 since outpatient labs drawn ___. 
Anemia with macrocytosis may represent side effect of 
hydroxyurea. No evidence of bleeding on prelim read of CT 
abd/pelvis, stool guaiac neg. Schistocytes on automated smear 
concerning for hemolysis. However, hapto, LDH, and Tbili 
negative for hemolysis. Retic index 1.9%. H/H was elevated in 
___ but currently similar to ___ and prior H/H. ___ 
heme/onc followed the patient and we were in touch with 
outpatient ___ hematologist. Held hydrea given anemia due to 
infection. Will consider restarting as outpatient. Will have 
weekly labs sent to ___ clinic which will be entered in OMR and 
hematologist will follow them up.  s/p transfusion ___ for HCT 
21 and given patient will be discharged with H/H unlikely to 
improve for quite some time due to sepsis and recent hydrea

# Depression: continued home citalopram

# Code: confirmed full  
# Emergency Contact:  
Name of health care proxy: ___ (significant other, HCP) 
 
Phone number: ___ /Cell phone: ___  
___ (son, alternate HCP) ___

**TRANSITIONAL ISSUES**
- Discharged on vancomycin 1G q12h IV, cefepime 2G q12h IV,
metronidazole 500mg q8h PO until ___ or to be determined by 
ID outpatient
- Labs: needs WEEKLY: CBC with differential, BUN, Cr, Vancomycin 
trough, ESR/CRP
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
- You should touch base with Dr. ___ day after your lab 
draw. Please call him if you do not hear from his office
- Hydrea being held for anemia in the setting of infection. 
Received 1upRBC on ___
- Will follow up with urologist this week to have site of 
prosthesis removal evaluated to rule out persistent source of 
infection
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Hydroxyurea 1500 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Acidophilus (L.acidoph & ___ 
acidophilus) 175 mg oral daily 
7. FoLIC Acid ___ mcg PO DAILY 
8. lutein 10 mg oral daily 
9. Vitamin A 20,000 UNIT PO DAILY 
10. Zinc Sulfate 220 mg PO DAILY 
11. Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral daily 

12. Magnesium Oxide 400 mg PO DAILY 
13. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1. CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 2 grams IV twice a day Disp #*56 
Vial Refills:*0
2. Vancomycin 1000 mg IV Q 12H 
RX *vancomycin 1 gram 1 gram IV twice a day Disp #*56 Vial 
Refills:*0
3. Aspirin 81 mg PO DAILY 
4. Citalopram 40 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 
7. Acetaminophen 650 mg PO Q6H pain 
8. Lactulose 30 mL PO DAILY:PRN constipation 
RX *lactulose 10 gram/15 mL ___ ml by mouth daily prn 
constipation Refills:*0
9. Lidocaine 5% Patch 1 PTCH TD QAM:PRN pain 
RX *lidocaine 5 % (700 mg/patch) apply one patch to area of pain 
daily as needed for pain Disp #*14 Patch Refills:*0
10. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth Q8hr Disp #*42 
Tablet Refills:*0
11. Polyethylene Glycol 17 g PO DAILY 
while taking tramadol, hold for loose stool 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*14 Packet Refills:*0
12. Senna 8.6 mg PO BID 
hold for loose stool 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*28 Tablet Refills:*0
13. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % [Normal Saline Flush] 0.9 % ___ ml 
IV daily and prn Disp #*14 Syringe Refills:*0
14. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth Q4hr prn: pain Disp #*84 
Tablet Refills:*0
15. Acidophilus (L.acidoph & 
___ acidophilus) 175 mg oral 
daily 
16. Ascorbic Acid ___ mg PO DAILY 
17. Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral daily 

18. FoLIC Acid ___ mcg PO DAILY 
19. lutein 10 mg oral daily 
20. Magnesium Oxide 400 mg PO DAILY 
21. Vitamin A 20,000 UNIT PO DAILY 
22. Zinc Sulfate 220 mg PO DAILY 
23. Outpatient Lab Work
ICD-9 730 osteomyelitis
WEEKLY: CBC with differential, BUN, Cr, Vancomycin trough, 
ESR/CRP
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

24. Outpatient Physical Therapy
Rolling walker.  
Diagnosis: Instablility of gait, prognosis good, length of need 
13 months.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___. You were 
admitted with groin and thigh pain concerning for recurrence of 
an infection in your bone called osteomyelitis. You were seen by 
the infectious disease team who recommended a biopsy of the 
infected area. Interventional radiology performed a biopsy of 
the pubic ramus bone. The preliminary culture of the bone and 
surrounding area grew pseudomonas, which is the same bacteria as 
your last culture. You were started on 3 antibiotics and your 
course will be determined by your infectious disease providers 
as an outpatient. We made a follow up with urology this week to 
examine your prior surgery site in order to evaluate for a 
persistent source of this infection. You are being sent home 
with tramadol for your pain. While taking tramadol you should 
take colace, senna, and miralax every day to prevent 
constipation and lactulose as needed if you do become 
constipated. You can skip these medications on days that you 
have loose stool.

We wish you the best!

Sincerely,
Your ___ medical team 
 
Followup Instructions:
___